* tb_regeneration -- decision (regeneration) time of the full comparator
* over PVT, at the input overdrives a 10-bit SAR actually presents, plus
* the dynamic energy per decision.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end (sim/harness/README.md).
* Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* WHAT THIS ANSWERS (issue #9, acceptance criterion "regeneration time at
* -40/27/125 C, +/-10 % supply, process corners")
*
* 1. Is the decision complete inside the bit-cycle budget at the WORST
*    PVT corner, rather than at the survey's typical-corner estimate?
*    spec/prior-art-survey.md S1.4 allocates 62.5 ns per bit trial at
*    1 MS/s with a 16x clock (31.25 ns of it is the decide phase at 50 %
*    duty), and 31.25 ns / 15.6 ns for the 2 MS/s stretch. The survey
*    asserts "sub-nanosecond regeneration [E4]" from literature; this
*    deck measures it.
*
* 2. The regeneration time constant tau, extracted rather than assumed.
*    A latch resolves in t = t0 + tau*ln(V_logic/(A_v*V_in)), so the
*    delay difference between two KNOWN overdrives gives tau directly:
*      tau = (t(V_small) - t(V_large)) / ln(V_large/V_small)
*    Everything downstream -- the metastability window, the minimum
*    resolvable input in a given time budget, #12's timing closure -- is
*    computed from tau, so tau is the quantity that must be measured.
*
* 3. Dynamic energy per decision, for the power row, and the block's
*    TOTAL static current -- which is ~2x the 10 uA bias, because the
*    1:1 mirror's diode branch sinks the forced bias from the same
*    supply as the mirrored tail. sim/comparator-offset/ measures the
*    tail branch alone and cannot see that.
*
* THE OVERDRIVE LADDER. LSB_se = V_REF/1024 = 3.2227 mV (DR-0006), so:
*   dv_big   100 mV     large-signal floor on the delay; the t0 term
*   dv_half  1.6113 mV  half an LSB -- the smallest input the converter
*                       is ever REQUIRED to resolve correctly
*   dv_tiny  0.1 mV     ~1/32 LSB; inside the region where a wrong answer
*                       is not an error (the residue is below the
*                       quantization floor), used only to show the
*                       logarithmic law holds and to bound metastability
*
* EVERY INSTANCE DECIDES BOTH WAYS, AND THAT IS WHAT MAKES THE
* MEASUREMENT ROBUST. Each input is a PWL that is NEGATIVE for the first
* bit cycle and POSITIVE for the second, switching at 45 ns -- about six
* preamp time constants before the second strobe, so the preamp is
* settled to a fraction of a percent of the overdrive when the decision
* is taken. Two things follow:
*
*   - The delay is measured on the SECOND strobe, where the output must
*     actively flip a latch holding the opposite answer. It therefore
*     does not depend on which state the SR latch happened to start in.
*     An earlier version of this deck strobed a static input from a
*     `.nodeset`-hinted start state and failed at every -40 C point,
*     because `.nodeset` is a hint: the operating point sometimes
*     converged to the very state the decision was supposed to produce,
*     so the output never transitioned and the measurement had nothing
*     to trigger on. A measurement whose validity depends on an initial
*     guess is not a measurement.
*   - Polarity is checked on the SAME instance rather than on a mirrored
*     one: dout must read LOW before the second strobe (the first,
*     negative decision, still held) and HIGH after it. A latch that was
*     stuck rather than deciding cannot pass both.

.param ib=10u
.param vcm=1.65
.param dv_half=1.6113m
.param dv_halfn=-1.6113m
.param dv_big=100m
.param dv_bign=-100m
.param dv_tiny=0.1m
.param dv_tinyn=-0.1m
.param tclk=62.5n
.param thi=31.25n

vsup  vdd  0 dc {vdd_val}
* Instance A has its own supply so the energy and static-current
* integrals see ONE comparator, not three.
vsupa vdda 0 dc {vdd_val}

* Bit-cycle clock: two periods, rising edges at 10 ns and 72.5 ns.
vclk clk 0 pulse(0 {vdd_val} 10n 0.2n 0.2n {thi-0.2n} {tclk})

vcmn cm 0 dc {vcm}

* The SR latch's hold state is metastable at DC (both StrongARM outputs
* precharge high, so both NANDs sit at ~V_DD/2 drawing crowbar current).
* The hint below steers the operating point to a definite state purely
* so the first nanoseconds are not spent crawling out of a balanced
* feedback loop at a collapsed timestep. Unlike the earlier version of
* this deck, NOTHING MEASURED HERE DEPENDS ON WHICH STATE IT PICKS.
.nodeset v(douta)=0 v(doutba)='vdd_val' v(doutd)=0 v(doutbd)='vdd_val'
.nodeset v(doute)=0 v(doutbe)='vdd_val'

* --- A: -0.5 LSB then +0.5 LSB, on its own supply ---------------------
vda  vda 0 pwl(0 {dv_halfn} 45n {dv_halfn} 46n {dv_half})
Eapa apa cm vda 0 0.5
Eana ana cm vda 0 -0.5
iba  vdda ibna dc {ib}
Xa   apa ana clk ibna douta doutba vdda 0 comparator

* --- D: -100 mV then +100 mV (large-signal delay floor) ---------------
vdd_ vdd_ 0 pwl(0 {dv_bign} 45n {dv_bign} 46n {dv_big})
Eapd apd cm vdd_ 0 0.5
Eand and cm vdd_ 0 -0.5
ibd  vdd ibnd dc {ib}
Xd   apd and clk ibnd doutd doutbd vdd 0 comparator

* --- E: -0.1 mV then +0.1 mV (metastability probe) --------------------
vde  vde 0 pwl(0 {dv_tinyn} 45n {dv_tinyn} 46n {dv_tiny})
Eape ape cm vde 0 0.5
Eane ane cm vde 0 -0.5
ibe  vdd ibne dc {ib}
Xe   ape ane clk ibne doute doutbe vdd 0 comparator

* --- Supply-normalized probes -----------------------------------------
* The measurement thresholds must not move with the +/-10 % supply axis,
* so every timing measurement triggers on a node normalized to its own
* supply and crossed at 0.5. A fixed absolute threshold would make the
* reported delay a function of the supply corner by construction.
Bclkn clkn 0 v = v(clk)/v(vdd)
Bdan  dan  0 v = v(douta)/v(vdda)
Bddn  ddn  0 v = v(doutd)/v(vdd)
Bden  den  0 v = v(doute)/v(vdd)

* --- COMPARATOR-NETLIST-BEGIN (verbatim-copied into every testbench) ---
.subckt preamp vinp vinn ibias pop pon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=20u l=2u
Xmt  ptail ibias vss vss nfet_03v3 w=20u l=2u
* Input pair. The device whose gate is vinp drives the INVERTING node
* pon, so v(pop) - v(pon) = +A_v * (v(vinp) - v(vinn)).
Xmip pon vinp ptail vss nfet_03v3 w=40u l=1u
Xmin pop vinn ptail vss nfet_03v3 w=40u l=1u
* Unsalicided 2 kohm/sq p+ poly loads, 75 squares = 150 kohm nominal.
* Third terminal is the substrate/body contact.
Xrlp vdd pop vss ppolyf_u_2k r_width=1u r_length=75u
Xrln vdd pon vss ppolyf_u_2k r_width=1u r_length=75u
.ends preamp

.subckt sarlatch inp inn clk outp outn vdd vss
* clk low  -> tail off; outp/outn/dip/din precharged to vdd
* clk high -> tail on; the input pair discharges dip/din at rates set by
*             v(inp)/v(inn), then the cross-coupled pairs regenerate.
Xmlt ltail clk   vss   vss nfet_03v3 w=16u l=0.35u
Xmlp dip   inp   ltail vss nfet_03v3 w=8u  l=0.5u
Xmln din   inn   ltail vss nfet_03v3 w=8u  l=0.5u
Xmnp outn  outp  dip   vss nfet_03v3 w=6u  l=0.35u
Xmnn outp  outn  din   vss nfet_03v3 w=6u  l=0.35u
Xmpp outn  outp  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmpn outp  outn  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmrp outn  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrn outp  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrd dip   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
Xmre din   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
.ends sarlatch

* Minimum-ish isolation inverter. Deliberately small: it is the only
* thing the regeneration nodes drive, so its gate capacitance is added
* directly to the latch's own output nodes and shows up as regeneration
* time.
.subckt inv a y vdd vss
Xp y a vdd vdd pfet_03v3 w=2u   l=0.35u
Xn y a vss vss nfet_03v3 w=1u   l=0.35u
.ends inv

.subckt nor2 a b y vdd vss
Xp1 ps a vdd vdd pfet_03v3 w=8u l=0.35u
Xp2 y  b ps  vdd pfet_03v3 w=8u l=0.35u
Xn1 y  a vss vss nfet_03v3 w=4u l=0.35u
Xn2 y  b vss vss nfet_03v3 w=4u l=0.35u
.ends nor2

.subckt comparator vinp vinn clk ibias dout doutb vdd vss
Xpre preamp_in1 preamp_in2 ibias pop pon vdd vss preamp
Xlat pop pon clk outp outn vdd vss sarlatch
* THE ISOLATION INVERTERS ARE NOT OPTIONAL -- they fix a measured
* hysteresis defect. Both StrongARM outputs precharge HIGH, so the
* decision arrives as an active-low pulse on exactly one of them, and
* the obvious way to hold it is a NAND SR latch wired straight to
* outp/outn. That circuit was built first and MEASURED: after deciding
* one way it would not flip back until the input reached ~10 mV of the
* opposite polarity -- about 3 LSB of hysteresis, which in a SAR (where
* the same comparator makes ten successive decisions on a shrinking
* residue) is a code-dependent error, not an offset.
*
* The cause is that a NAND SR latch's HELD STATE loads the two
* regeneration nodes asymmetrically. Wired directly, the node driving
* the NAND whose output is LOW sees that output swing when it falls
* (Miller-multiplied C_gd, ~26 fF against a regeneration node of a few
* tens of fF), while its twin drives a NAND whose output is already
* HIGH and stays there. The latch is therefore biased toward keeping
* the answer it already holds.
*
* Interposing one small inverter per side removes the coupling: the
* inverters are identical, both of their inputs precharge to V_DD, and
* neither loading depends on what the SR latch is holding. The SR latch
* becomes NOR-type because the inverters make the decision pulses
* active-HIGH. dout goes HIGH when outn falls, i.e. when
* v(vinp) > v(vinn), exactly as before.
Xis outn sset vdd vss inv
Xir outp srst vdd vss inv
Xno1 srst doutb dout  vdd vss nor2
Xno2 sset dout  doutb vdd vss nor2
* Input pass-through (zero-volt sources) so a testbench can probe the
* current the comparator draws from each CDAC top plate directly.
Vpp preamp_in1 vinp dc 0
Vpn preamp_in2 vinn dc 0
.ends comparator
* --- COMPARATOR-NETLIST-END ---
